US05610144
By proceeding in a fashion similar to that described in Example 3, but starting from 3.6 g of N,N'-carbonyldiimidazole, 6.2 g of tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate in solution in 150 cm3 of anhydrous 1,2-dichloroethane and 3.9 g of ethyl (E)-3-aminocinnamate, 4.8 g of ethyl (E)-3-{3-[2-((2RS,5SR)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}cinnamate are obtained [proton NMR (250 MHz, DMSO D6, δ in ppm, J in Hz), 2 rotamers at room temperature, peak coalescence at 120° C.: 1.3 (t, 3H, CH3); 1.5 (bs, 9H, (CH3)3); 4.25 (q, 2H, CH2O); 6.4 (d, 1H, J=15, CH= trans); 7.10 to 7.70 (m, 10H, aromatic and CH= trans). Infrared spectrum (KBr), characteristic bands in cm-1 : 3375, 3150, 3070, 3035, 2980, 2940, 2880, 1740, 1700, 1640, 1610, 1590, 1560, 1495, 1490, 1455, 1430, 1395, 1370, 1310, 1270, 1220, 1180, 1160, 1040, 990, 860, 840, 790, 760, 705, 685].

reactant | tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate | 6.2 g | NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1 | C17H24N2O3
reactant | CH2O | C=O | CH2O
reactant | KBr | [K+].[Br-]
reactant | ethyl (E)-3-aminocinnamate | 3.9 g | NC=1C=C(/C=C/C(=O)OCC)C=CC1 | C11H13NO2
solvent | 1,2-dichloroethane | 150 cm3 | ClCCCl | C2H4Cl2
product | ethyl (E)-3-{3-[2-((2RS,5SR)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}cinnamate | 4.8 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(/C=C/C(=O)OCC)C=CC1)=O)=O | C29H35N3O6
